US06313122B1
A. 1-(4-Pyridyl)piperidine-4-methanol
A solution of methyl N-(4-pyridyl)isonipecotate (600 mg, 2.72 mmol) in tetrahydrofuran was added to solution of lithium aluminum hydride (100 mg) in tetrahydrofuran (14 mL) cooled to 0° C. Upon consumption of the starting material (0.5-2 h), the mixture was treated with water (0.10 mL), 15% aqueous sodium hydroxide (0.10 mL), and water (0.30 mL). After 0.25 h, the mixture was sonicated for 0.25 h, then poured into a mixture of ethyl acetate, water, sodium tartrate, and potassium tartrate. The aqueous layer was extracted twice with ethyl acetate and the combined extracts were dried (magnesium sulfate), filtered, and concentrated in vacuo to yield 357 mg (68%) of the title compound, which was used without further purification.

reactant | methyl N-(4-pyridyl)isonipecotate | 2.72 mmol, 600 mg | N1=CC=C(C=C1)N1CCC(C(=O)OC)CC1 | C12H16N2O2
reactant | lithium aluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | 1-(4-Pyridyl)piperidine-4-methanol | 357 mg, 68% | N1=CC=C(C=C1)N1CCC(CC1)CO | C11H16N2O
